US07244744B2
To a solution of 4-(2-amino-4-fluoro-phenylamino)-piperidine-1-carboxylic acid ethyl ester (0.100 g, 0.36 mmol) and triethylamine (0.110 mg, 1.08 mmol) in methylene chloride (2 mL) at 0° C. was added a solution of diphosgene (0.71 mg, 0.36 mmol) in methylene chloride (4 mL) at room temperature. The reaction mixture was stirred for 18 h then quenched with a saturated aqueous solution of sodium bicarbonate. The organic phase was separated and washed with brine. The organic phase was purified by passing it through a plug of silica gel, using ethyl acetate as the eluent. The filtrate was evaporated, in vacuo, to a residue. The residue was triturated with hexanes/dichlormethane (95:5) and the solid collected by filtration. Vaccum drying yielded 4-(5-fluoro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid ethyl ester (77.8 mg, 71%) as a light tan solid.

reactant | 4-(2-amino-4-fluoro-phenylamino)-piperidine-1-carboxylic acid ethyl ester | 0.36 mmol, 0.100 g | C(C)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)F)N | C14H20FN3O2
reactant | triethylamine | 1.08 mmol, 0.110 mg | C(C)N(CC)CC | C6H15N
reactant | diphosgene | 0.36 mmol, 0.71 mg | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-fluoro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid ethyl ester | 77.8 mg, 71% | C(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC(=C2)F)=O | C15H18FN3O3
